US07915250B2
To a solution of 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-{4-[(2-nitrophenyl)sulfonyl]piperazin-2-yl}azetidin-3-ol (139.4 mg, 0.19 mmol) in DMF (1 mL) was added potassium carbonate (79 mg, 0.57 mmol) and thiophenol (21 μL, 0.21 mmol). The mixture was stirred for 45 min at room temperature then quenched with water. The aqueous mixture was extracted twice with ethyl acetate, and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by preparative reverse phase HPLC to provide 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-piperazin-2-ylazetidin-3-ol as a white solid (26.8 mg, 0.05 mmol). 1H NMR (400 MHz, CD3OD): 7.45 (dd, 1H), 7.36 (m, 1H), 7.32 (m, 1H), 7.03 (m, 1H), 6.62 (ddd, 1H), 4.51 (br dd, 1H), 4.31 (br dd, 1H), 4.17-3.92 (m, 4H), 3.73-3.56 (m, 3H), 3.46 (br m, 1H), 3.26 (m, 1H); MS (EI) for C20H20F3IN4O2: 533 (MH+).

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-{4-[(2-nitrophenyl)sulfonyl]piperazin-2-yl}azetidin-3-ol | 0.19 mmol, 139.4 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C1NCCN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | C26H23F3IN5O6S
reactant | potassium carbonate | 0.57 mmol, 79 mg | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 0.21 mmol, 21 μL | C1(=CC=CC=C1)S | C6H6S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-piperazin-2-ylazetidin-3-ol | 0.05 mmol, 26.8 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C1NCCNC1)NC1=C(C=C(C=C1)I)F | C20H20F3IN4O2
